US07666888B2
4-[(2-Benzylpyrrolidin-1-yl)carbonyl]-5-[4-(trifluoromethyl)phenyl]isoxazole
The title compound was prepared from 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid (12.9 mg, 0.050 mmol) and 2-benzylpyrrolidine (9.7 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (12.5 mg). Calcd for C22H19F3N2O2: 400.1399, found 400.1398.

reactant | 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 12.9 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | 2-benzylpyrrolidine | 0.060 mmol, 9.7 mg | C(C1=CC=CC=C1)C1NCCC1 | C11H15N
product | 4-[(2-Benzylpyrrolidin-1-yl)carbonyl]-5-[4-(trifluoromethyl)phenyl]isoxazole | C(C1=CC=CC=C1)C1N(CCC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C(F)(F)F | C22H19F3N2O2
